US06642227B2
5-Acetyl-2-methylsulfanyl-4-(4-methyl-phenyl)-thiophene-3-carbonitrile
3-(4-Methyl-phenyl)-3-oxo-propionitrile (5 mmol) was added to a suspension of K2CO3 (3 equivalents, 15 mmol) in DMF (4.5 mL) and allowed to stir at room temperature. After 10 minutes, CS2 (1.25 equivalents, 7.5 mmol) was added in one portion and the resulting mixture stirred at room temperature for an additional 10 minutes. A solution of 1-chloro-propan-2-one (1.0 equivalent, 5 mmol) in DMF (5 mL) was added. After 1 hour, a solution of MeI (1.1 equivalents, 5.5 mmol) in DMF (2 mL) was added in a dropwise fashion. After 30 minutes, the mixture was poured onto water and the resulting mixture was stirred vigorously for 12-16 hours to afford a suspension of the desired product. The crude product was isolated by filtration.

reactant | 3-(4-Methyl-phenyl)-3-oxo-propionitrile | 5 mmol | CC1=CC=C(C=C1)C(CC#N)=O | C10H9NO
reactant | K2CO3 | 15 mmol, 3 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | CS2 | 7.5 mmol, 1.25 equivalents | C(=S)=S | CS2
reactant | 1-chloro-propan-2-one | 5 mmol, 1.0 equivalent | ClCC(C)=O | C3H5ClO
reactant | MeI | 5.5 mmol, 1.1 equivalents | CI | CH3I
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-Acetyl-2-methylsulfanyl-4-(4-methyl-phenyl)-thiophene-3-carbonitrile | C(C)(=O)C1=C(C(=C(S1)SC)C#N)C1=CC=C(C=C1)C | C15H13NOS2
